US04180522
In the manner given in Example 1, 3,4-dichloroaniline, 1-chloro-2-dimethylaminoethane hydrochloride, and sodium bicarbonate are heated to give N,N-dimethyl-N'-(3,4-dichlorophenyl)ethylenediamine.

reactant | 3,4-dichloroaniline | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | 1-chloro-2-dimethylaminoethane hydrochloride | Cl.ClCCN(C)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N,N-dimethyl-N'-(3,4-dichlorophenyl)ethylenediamine | CN(CCNC1=CC(=C(C=C1)Cl)Cl)C | C10H14Cl2N2
